US06939928B1
(2) Synthesis of (1-ethyl-1-methylpropyl)cyclopentadiene
To a solution of 8.00 g (59.6 mmol) of 6,6-diethylfulvene in 35 ml of ether, 60.0 ml (68.4 mmol) of an ether solution of methyllithium was dropwise added in a nitrogen atmosphere with ice cooling, followed by stirring at room temperature for one night. Then, 30 ml of water was added. The separated organic phase was washed with water and a saturated saline solution, then dried over magnesium sulfate and filtered. From the filtrate, the solvent was removed under reduced pressure to obtain a liquid. The liquid was subjected to vacuum distillation (92° C./40 mmHg) to obtain 5.50 g (36.6 mmol) of a light yellow liquid (yield: 61%). The analyzed values are given below.

reactant | 6,6-diethylfulvene | 59.6 mmol, 8.00 g | C(C)C(=C1C=CC=C1)CC | C10H14
reactant | methyllithium | C[Li]
reactant | water | 30 ml | O | H2O
solvent | ether | 35 ml | CCOCC | C4H10O
solvent | ether | 68.4 mmol, 60.0 ml | CCOCC | C4H10O
product | (1-ethyl-1-methylpropyl)cyclopentadiene | 36.6 mmol, 5.50 g, yield: 61% | C(C)C(CC)(C)C1=CC=CC1 | C11H18
